US06342765B1
To a solution of 4-hydroxy-2-(4-fluorophenyl)benzoic acid (4.5 g; 0.019 mol) in DMF (90 ml) cooled to 0° C. under an argon atmosphere was added in sequence NMM (6.4 ml; 0.058 mol), L-methionine methyl ester hydrochloride (4.0 g; 0.020 mol), EDC (4.47 g; 0.023 mol) and HOBT (2.7 g; 0.020 mol) and the reaction warmed to ambient temperature and stirred for 3 hours. The DMF was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was washed with water and brine, filtered through PSI filter paper and concentrated in vacuo to give a yellow oil. Purification by flash column chromatography eluting with ethyl acetate/iso-hexane (1:1) gave methyl (2S)-2-[4-hydroxy-2-(4-fluorophenyl)benzoylamino]-4-methylsulfanylbutyrate as a white foam (5.7 g).

reactant | 4-hydroxy-2-(4-fluorophenyl)benzoic acid | 0.019 mol, 4.5 g | OC1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F | C13H9FO3
reactant | NMM | 0.058 mol, 6.4 ml | CN1CCOCC1 | C5H11NO
reactant | L-methionine methyl ester hydrochloride | 0.020 mol, 4.0 g | Cl.COC([C@@H](N)CCSC)=O
reactant | EDC | 0.023 mol, 4.47 g
reactant | HOBT | 0.020 mol, 2.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | methyl (2S)-2-[4-hydroxy-2-(4-fluorophenyl)benzoylamino]-4-methylsulfanylbutyrate | 5.7 g, Yield: 51% | OC1=CC(=C(C(=O)N[C@H](C(=O)OC)CCSC)C=C1)C1=CC=C(C=C1)F | C19H20FNO4S
